US05716993
2-Amino-5-chloro-N-(3,4-methylenedioxybenzyl)benzamide hydrochloride (100 mg) was reacted with 50 μl of phenyl chlorocarbonate in 5 ml of tetrahydrofuran in the presence of 150 μl of diisopropylethylamine. The reaction mixture was subjected to extraction with ethyl acetate and water and recrystallization from ethyl acetate/hexane to give 110 mg of 5-chloro-N-(3,4-methylenedioxybenzyl)-2-phenoxycarbonylaminobenzamide (yield: 88%).

reactant | 2-Amino-5-chloro-N-(3,4-methylenedioxybenzyl)benzamide hydrochloride | 100 mg | Cl.NC1=C(C(=O)NCC2=CC3=C(C=C2)OCO3)C=C(C=C1)Cl
reactant | phenyl chlorocarbonate | 50 μl | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | diisopropylethylamine | 150 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-chloro-N-(3,4-methylenedioxybenzyl)-2-phenoxycarbonylaminobenzamide | 110 mg, yield: 88% | ClC=1C=CC(=C(C(=O)NCC2=CC3=C(C=C2)OCO3)C1)NC(=O)OC1=CC=CC=C1 | C22H17ClN2O5
